US03989707
A mixture of 26 parts of methyl 4-(5-chloro-1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)-3-methyl-1-piperidinecarboxylate, 36 parts of potassium hydroxide, 200 parts of 2-propanol and 6 parts of water is stirred and refluxed for 18 hours. The reaction mixture is evaporated and water is added to the residue. The whole is acidified with a concentrated hydrochloric acid solution, while cooling. The free base is liberated in the conventional manner and stirred with trichloromethane for 30 minutes. The layers are separated and the aqueous layer is extracted with trichloromethane. The combined organic phases are dried, filtered and evaporated. The oily residue solidifies on triturating in a mixture of 2,2'-oxybispropane and a small amount of 2-propanol. The product is filtered off and crystallized from 4-methyl-2-pentanone, yielding 5-chloro-1,3-dihydro-1-(3-methyl-4-piperidinyl)-2H-benzimidazol-2-one; mp. 198.9° C.

reactant | methyl 4-(5-chloro-1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)-3-methyl-1-piperidinecarboxylate | ClC1=CC2=C(N(C(N2)=O)C2C(CN(CC2)C(=O)OC)C)C=C1 | C15H18ClN3O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-propanol | CC(C)O | C3H8O
solvent | water | O | H2O
product | 5-chloro-1,3-dihydro-1-(3-methyl-4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2C(CNCC2)C)C=C1 | C13H16ClN3O
